US04163759
9.3 g of 4-hydroxyphenylglycolic acid in the form of the monohydrate (molecular weight 186) are dissolved in 50 g of water, and 82 g of an aqueous 20% FeCl3 solution are added over a period of 20 to 30 minutes at 75° to 80° C., initiating a vigorous evolution of carbon dioxide which stops after another 30 minutes at 100° C. The reaction takes place at a pH-value of from 2 to 0.8. Most of the 4-hydroxybenzaldehyde formed crystallises out of the acid oxidation solution on cooling to 0° C. and is filtered off under suction. The residual 4-hydroxy benzaldehyde is removed from the cold aqueous mother liquor by repeated extraction with benzene. Most of the p-hydroxybenzaldehyde is added to the benzene solution thus obtained, most of the benzene evaporated off and pure 4-hydroxybenzaldehyde precipitated in crystalline form either with light petrol or with cyclohexane.

reactant | 4-hydroxyphenylglycolic acid | 9.3 g | OC1=CC=C(C=C1)C(C(=O)O)O | C8H8O4
reactant | carbon dioxide | C(=O)=O | CO2
solvent | water | 50 g | O | H2O
product | 4-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
